US05318959
3-(2-chlorophenyl)-1-methyl-5-[4-(6-methylhexyl)phenyl]-1H-1,2,4-triazole (Compound No. 67)
A mixture of 2.06 g of N-methyl-N-phenylsulfonyl-2-chlorobenzohydrazonoyl chloride, 1.30 g of 4-(6-methylhexyl) benzonitrile, 0.93 g of anhydrous aluminum chloride and 5 ml of o-dichlorobenzene was stirred in an oil bath at a temperature of 140° C. for 30 minutes. After the cooling, the resulting solution was dissolved in 200 ml of chloroform, washed with diluted hydrochloric acid solution, diluted sodium hydroxide aqueous solution and saline water in this order, dried over anhydrous magnesium sulfate and concentrated under a reduced pressure. The resulting concentrate was purified through a chromatography of silica gel column using a mixed solution of hexane and ethyl acetate as a developing solvent to obtain 1.52 g of the given compound (melting point: 64.0°-67.0° C.).

reactant | N-methyl-N-phenylsulfonyl-2-chlorobenzohydrazonoyl chloride | 2.06 g | CN(N=C(C1=C(C=CC=C1)Cl)Cl)S(=O)(=O)C1=CC=CC=C1 | C14H12Cl2N2O2S
reactant | 4-(6-methylhexyl) benzonitrile | 1.30 g | CCCCCCCC1=CC=C(C#N)C=C1 | C14H19N
reactant | aluminum chloride | 0.93 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-chlorophenyl)-1-methyl-5-[4-(6-methylhexyl)phenyl]-1H-1,2,4-triazole | 1.52 g | ClC1=C(C=CC=C1)C1=NN(C(=N1)C1=CC=C(C=C1)CCCCCCC)C | C22H26ClN3
